US06274584B1
At 0° C., trifluoroacetic acid (4 ml) was given to a solution of N-((1R)-1-{N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamoyl}2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester (647 mg, 1.08 mmol) in dichloromethane (4 ml). The reaction mixture was stirred for 2.5 h at. 0° C. It was diluted with dichloromethane (15 ml). A saturated aqueous solution of sodium hydrogen carbonate (15 ml) was added. Solid sodium hydrogen carbonate was added until pH 7 was obtained. The phases were separated. The aqueous phase was extracted with dichloromethane (2×15 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (20 g), using dichloromethane/methanol/25% aqueous ammonia 200:10:1 as eluent to give 434 mg of (2R)-N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide.

reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-((1R)-1-{N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamoyl}2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 1.08 mmol, 647 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1)=O)=O | C34H39N3O5S
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (2R)-N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 434 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)CCN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C29H31N3O3S
